US04954339
N,N-dimethylheptadecylamine (b.p. 117° @ 0.15 mmHg) was prepared from dimethylamine and heptadecanoic acid by the method described in Example 14.

reactant | dimethylamine | CNC | C2H7N
reactant | heptadecanoic acid | C(CCCCCCCCCCCCCCCC)(=O)O | C17H34O2
product | N,N-dimethylheptadecylamine | CN(C)CCCCCCCCCCCCCCCCC | C19H41N
